US05998433
b) Synthesis of N,N-dimethyl-[7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine
To a solution of 0.237 g (0.686 mmol) of 7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine in 20 ml of acetic acid, 74 mg (0.82 mmol) of 50% aqueous dimethylamine and 67 mg (0.82 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 30 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepine | 0.686 mmol, 0.237 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CCC2)C=CO3)C=C1 | C22H19NO3
reactant | dimethylamine | 0.82 mmol, 74 mg | CNC | C2H7N
reactant | formaldehyde | 0.82 mmol, 67 mg | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[7-(4-benzoylbenzoyl)-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-2-ylmethyl]amine | CN(C)CC1=CC2=C(CN(CCC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C25H26N2O3
